US03960847
9-[(2-Bromo-4-chlorobenzyl)oxy]-4-oxo-4H-pyrido [1,2-α]pyrimidine-3-carboxylic Acid, Ethyl Ester
To 4.7 g of 9-hydroxy-4-oxo-4H-pyrido[1,2-α]pyrimidine-3-carboxylic acid, ethyl ester, 7.2 g of 2-bromo-4-chlorobenzyl bromide and 200 ml of ethyl methyl ketone is added 3.3 g of anhydrous potassium carbonate. The mixture is stirred and heated under reflux for 18 hours, cooled and filtered. The filtrate is concentrated in vacuo to give 9.5 g of a viscous gum. This is dissolved in 100 ml of chloroform and the chloroform solution is washed with 60 ml of 5% aqueous potassium hydroxide. The chloroform solution is separated, washed with 25 ml of saturated aqueous sodium chloride, dried, and concentrated to give 7.4 g of a viscous gum. This gum is crystallized in 250 ml of 1:1 toluene-Skellysolve E to give 3.6 g of green crystals that sinter at 155° and melt at 162°-165°. A second recrystallization from 225 ml of 2-propanol gives the yellow crystalline named product, m.p. about 167°-169°. The yield is about 2.95 g.

reactant | 9-hydroxy-4-oxo-4H-pyrido[1,2-α]pyrimidine-3-carboxylic acid, ethyl ester | 4.7 g | OC1=CC=CN2C1=NC=C(C2=O)C(=O)OCC | C11H10N2O4
reactant | 2-bromo-4-chlorobenzyl bromide | 7.2 g | BrC1=C(CBr)C=CC(=C1)Cl | C7H5Br2Cl
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl methyl ketone | 200 ml | CC(=O)CC | C4H8O
product | 9-[(2-Bromo-4-chlorobenzyl)oxy]-4-oxo-4H-pyrido [1,2-α]pyrimidine-3-carboxylic Acid, Ethyl Ester | 9.5 g | BrC1=C(COC2=CC=CN3C2=NC=C(C3=O)C(=O)OCC)C=CC(=C1)Cl | C18H14BrClN2O4
